US04968702
3-Amino-6-fluoro-2-(4-iodophenyl)-4-quinolinecarboxylic acid
A basic aqueous solution of 3.8 g of 5-fluoroisatin in water was reacted with 9.8 g of 2-amino-1-(4-iodophenyl)ethanone hydrochloride by the procedure described in example 41, giving 7.0 g of the desiredcompound as a yellow solid, mp 251°-253° C.

reactant | 5-fluoroisatin | 3.8 g | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
reactant | 2-amino-1-(4-iodophenyl)ethanone hydrochloride | 9.8 g | Cl.NCC(=O)C1=CC=C(C=C1)I
reactant | water | O | H2O
product | 3-Amino-6-fluoro-2-(4-iodophenyl)-4-quinolinecarboxylic acid | NC=1C(=NC2=CC=C(C=C2C1C(=O)O)F)C1=CC=C(C=C1)I | C16H10FIN2O2
